US08383644B2
(S)-2-{[(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid
2,5-Dimethyl-oxazole-4-carboxylic acid (6 mg) was taken in 1 mL of anhydrous DCM and EDCI (9 mg), HOBT (7 mg) and (S)-2-({(3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride (25 mg) and stirred for 5 minutes. The reaction mixture was cooled to 0° C. and DIEA (25 mg) was added and reaction was stirred at room temperature for 2 hours. After the reaction was complete, the reaction mixture was loaded onto a silica gel column (1:3 EtOAc:hexanes to 4% MeOH in 1:1 EtOAc:hexanes) to get purified (S)-2-{[(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester (23 mg). This was hydrolyzed according to General Procedure B to give the title compound (19 mg). LCMS (m/z): 878.

reactant | 2,5-Dimethyl-oxazole-4-carboxylic acid | 6 mg | CC=1OC(=C(N1)C(=O)O)C | C6H7NO3
reactant | HOBT | 7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-2-({(3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride | 25 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O
reactant | DIEA | 25 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EDCI | 9 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | (S)-2-{[(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid | 19 mg | ClC=1C=C(COC=2C=C(C=CC2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(=O)C=3N=C(OC3C)C)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)OC3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C47H42Cl2N4O9
